US07041690B2
To a mixture of 4-fluorobenzaldehyde (2.5 g, 20.2 mmol), 2-bromophenol (3.5 g, 20.2 mmol) and potassium carbonate (3.35 g, 24.3 mmol) is added N,N-dimethylacetamide (20 mL) and the resulting reaction mixture is heated to 150° C. for 12 hours. Once complete, the reaction is cooled to room temperature and diluted with water prior to being extracted with ethyl acetate. The combined extracts are washed with brine and dried over sodium sulfate and concentrated. The resulting yellow oil is purified by column chromatography (5% ethyl acetate in hexanes) to afford 2.1 g of 4-(2-bromophenoxy)benzaldehyde.

reactant | 4-fluorobenzaldehyde | 20.2 mmol, 2.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-bromophenol | 20.2 mmol, 3.5 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 24.3 mmol, 3.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-(2-bromophenoxy)benzaldehyde | 2.1 g | BrC1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C13H9BrO2
